US07906652B2
5-(3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorophenyl)-1H-tetrazole
A mixture of 1.17 g (2.81 mmol) of 3-{1-[(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorobenzonitrile, 914 mg (14.06 mmol) of sodium azide, and 715 mg (14.05 mmol) of ammonium chloride in 15 mL of DMF was stirred for 16 h. Then it was concentrated to remove solvents. The residue was purified by silica gel chromatography with CH2Cl2/MeOH/NH3 (2M) in MeOH to afford the title compound as a white solid;

reactant | 3-{1-[(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorobenzonitrile | 2.81 mmol, 1.17 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N1CC(C1)C(C(C)(C)F)C=1C=C(C#N)C=C(C1)F | C27H26F2N2
reactant | sodium azide | 14.06 mmol, 914 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 14.05 mmol, 715 mg | [Cl-].[NH4+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 5-(3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorophenyl)-1H-tetrazole | C1(=CC=CC=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C=C(C1)F)C1=NN=NN1)C1=CC=CC=C1 | C27H27F2N5
